US04194002
A solution of 25.8 g cis-perhydro-4-oxo-1-indoline carboxylic acid ethyl ester in 200 ml absolute tetrahydrofuran is added at -30° to -40° to 1 mole of lithium 3,4-dimethoxyphenylacetylide in tetrahydrofuran (formed from 2 moles 2 molar butyl lithium in hexane and 1 mole 1-(2,2-dibromovinyl)-3,4-dimethoxybenzene in 300 ml benzene at -70°). The mixture is stirred over-night. 100 ml concentrated ammonium chloride solution is added with ice cooling. The organic phase is worked up to give (3aRS,4RS,7aRS)-4-(3,4-dimethoxy)-phenylethinyl)-hexahydro-4-hydroxy-1-indoline carboxylic acid ethyl ester; M.Pt. 153°-155° (from ether).

reactant | cis-perhydro-4-oxo-1-indoline carboxylic acid ethyl ester | 25.8 g | C(C)OC(=O)N1CC[C@@H]2C(CCC[C@H]12)=O | C11H17NO3
reactant | lithium | 1 mole | [Li] | Li
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 moles, 2 molar, 300 ml | O1CCCC1 | C4H8O
product | hexahydro-4-hydroxy-1-indoline carboxylic acid ethyl ester | C(C)OC(=O)N1CCC2C(CCCC12)O | C11H19NO3
